US08486919B2
1,3-Bis(diethylphosphonooxy)-4-ethylbenzene (Compound 4)
To a tetrahydrofuran solution (10 ml) of 4-ethylresorcinol (691 mg), sodium hydride (60% dispersion in liquid paraffin) (440 mg) was added and stirred at 0° C. for 30 minutes. Then, diethyl chlorophosphate (1.73 ml) was added dropwise. After stirring at room temperature for 3 hours, water (10 ml) was added to the reaction mixture, and the extraction was carried out with ethyl acetate (30 ml). Then, the extract was washed with saturated brine (10 ml), dried with anhydrous sodium sulfate and then concentrated. The residue (2.43 g) was subjected to silica gel chromatography (silica gel 40 g, chloroform to chloroform:methanol=10:1), to give the title compound (2.05 g, yield: 100%) as a pale yellow oil.

reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | 4-ethylresorcinol | 691 mg | C(C)C1=C(C=C(O)C=C1)O | C8H10O2
reactant | sodium hydride | 440 mg | [H-].[Na+]
reactant | diethyl chlorophosphate | 1.73 ml | P(=O)(OCC)(OCC)Cl | C4H10ClO3P
solvent | water | 10 ml | O | H2O
product | 1,3-Bis(diethylphosphonooxy)-4-ethylbenzene | 2.05 g, yield: 100% | C(C)OP(=O)(OCC)OC1=CC(=C(C=C1)CC)OP(=O)(OCC)OCC | C16H28O8P2
